US04587256
2.195 g of (±)-6-fluoro-2,3-dihydro-2'-iminospiro-[4H-1-benzopyran-4,5'-thiazolidin]-4'-one were dissolved in 12 ml of methanol and 12 ml of 37% aqueous hydrochloric acid and the solution was boiled overnight. The colorless crystals which separated were removed and washed with water. After drying in vacuo, there was obtained (±)-6-fluoro-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione of melting point 147°-149° C. (95% of theory).

reactant | (±)-6-fluoro-2,3-dihydro-2'-iminospiro-[4H-1-benzopyran-4,5'-thiazolidin]-4'-one | 2.195 g | FC=1C=CC2=C(C1)C1(C(NC(S1)=N)=O)CCO2 | C11H9FN2O2S
reactant | hydrochloric acid | 12 ml | Cl | ClH
reactant | methanol | 12 ml | CO | CH4O
product | (±)-6-fluoro-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione | FC=1C=CC2=C(C1)C1(C(NC(S1)=O)=O)CCO2 | C11H8FNO3S
